Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
Amoxicillin / c chlor
 
Attending: ___.
 
Chief Complaint:
If my mother doesn't pay for my hotel, I'll hurt myself!
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
For further details of the history and presentation, please see 
OMR including Dr. ___ and Dr. ___ 
initial consultation notes dated ___ 
___ admission note dated ___. 
. 
Briefly, this is a ___ year old single, homeless, unemployed man, 
previously diagnosed with autism spectrum disorder, OCD, s/p 
numerous psychiatric hospitalizations with recent discharge from 
___ in ___, no prior suicide attempts, 
chronic difficulties with poor frustration tolerance with 
numerous verbal threats towards his parents, who presented to 
___ ED via EMS after threatening to commit suicide, HI towards 
is mother after she refused to pay for his stay in the ___ 
___ and suggested he go to a homeless shelter. 
. 
Upon initial interview, patient reported he had not had a place 
to live and that no one would sign a lease for him. He reported 
his mother had started an argument, asking if his clothes were 
clean and then stated that she would no longer play for his 
hotel rooms, resulting in him screaming at his mother in the 
lobby to the point where the hotel staff called ___. Mr. ___ 
reported
he would be suicidal if he has to go to a homeless shelter, 
boarding house, or group home, stating he would jump into 
traffic. Reported if he had to move back to ___ with his 
mother, he would punch or hit her. He also reported he would 
like his parents to die to get their money. Of note, reported he 
would
feel 100% safe if his mother would pay for his hotels.  
. 
ED Course: Patient was in good behavioral control and did not 
require physical or chemical restraints 
. 
On my interview with Mr. ___, who was able to provide a 
relatively coherent history, he confirmed the narrative provided 
above. He reported a childhood that was "good and bad," noting 
he used to be close with his family and took "great" family 
vacations, but stating he also struggled in school and was 
eventually placed in special education classes despite his 
parents "wanting me to be that ___ kid." In ___, his 
maternal grandfather passed away, whom he was close to, and his 
parents separated. In ___, patient stated "I couldn't get
another year of high school and they wouldn't let me go to 
astronomy club, I got suicidal" with subsequent hospitalization 
at ___ near ___ for suicidal ideation. 
Following this hospitalization, he went to ___ from 
___ and then lived for 6 months in a staffed apartment. 
Since ___, he was living independently in an apartment 
that his parents paid for with periods of arguing with his 
parents. In ___, his mother refused to resign the lease to his 
apartment, stating she was afraid of her credit being ruined; 
Mr. ___ admitted that there were "serious complaints and 
serious fights,
complaints of noises" to the point where he became frustrated 
and caused damage to the landscaping of the property. Following 
this he became homeless, and has been living in hotels for the 
past year, which his parents paid for until recently. 
. 
Mr. ___ reports that he normally spends the day, "chilling," 
but denies having any close friends in the area or any hobbies. 
Reports he does have one friend whom he met at ___, who 
is in ___ and whom he is in contact with. In this setting, 
patient reported he is depressed in that he is "run down in 
life" and continued to endorse conditional suicidal ideation, 
stating he will kill himself if he has to live in a group home 
or in a homeless shelter. Patient could not report how he has 
been sleeping, stating, "I don't know... sometimes there are 
nights where I'm up..." Endorsed poor interest in anything, as 
he is worried about his housing, poor energy, and increased 
appetite but noted he is unsure of weight gain. 
. 
On psychiatric review of systems, patient denied a history of 
manic symptoms, stating, "I'm not bipolar." Denied history of 
decreased need for sleep, excessive energy, grandiosity, 
increased rate of speech. Denied a history of psychosis 
including auditory or visual hallucinations, paranoia, ideas of 
reference. Denies alcohol or drug use. 

 
Past Medical History:
Past psychiatric history:
- Diagnoses: ASD, OCD
- SA/SIB: denies/denies
- Hospitalizations: patient reports 6 prior with the first in
___ at ___ in ___ area. Was at ___
from ___. Reported prior hospitalizations at ___,
hospitalization at ___ in ___, ___ for 1
month in ___, and was last discharged from ___ in
___. 
- Medication Trials: Geodon, Prozac (c/o akathesia), Luvox
(reports TD), risperidone (reported difficulty urinating),
Prolixin (stiffness), Neurontin, Trazodone, Celexa 
- Psychiatrist: Dr. ___ 
- ___: Dr. ___ 
. 
Past medical history:
Denies 

 
Social History:
Substance use history:
- Alcohol: denies 
- Illicits: denies
- Tobacco: denies 
. 
Personal and Social History: Patient born and raised in the 
___ area as the only child of an intact family. Reports his 
father works as a ___ in the ___ area and his 
mother "doesn't do anything." Stated his childhood was "good and 
bad," noting he had good family vacations with his parents but 
struggled in school as noted above, "my parents were difficult 
and wouldn't let me go to special education classes." Eventually 
he was enrolled in special education courses and he did complete 
high school, stating he did "well" academically, but could not 
elaborate more. After this, he reported his parents "made me go 
to college against my will" and he enrolled for a semester in a 
local ___. Has history of altercations with his 
parents, admitting he did physically hit his mother on the arm 
in ___, denies other physical assaults since then. Never 
married, no children, "I want to be sexually active with as many 
girls and boys as I can." Stated he is interested in pursuing 
relationships with teenage girls and boys but understands that 
the
relationships cannot be sexual "because of statutory reasons." 
Denies inappropriately touching minors. Denies access to weapons 
and denies legal history.  

 
Family History:
Denies
 
Physical Exam:
Admission Physical Examination:
Vitals: 98.1 PO; 120/80; 97; 20; 100%
General: no acute distress
-HEENT: Normocephalic, atraumatic.  Moist mucous membranes,
oropharynx clear, supple neck.  No scleral icterus.
-Cardiovascular: Regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops. Distal pulses ___ throughout.
-Pulmonary: No increased work of breathing.  Lungs clear to
auscultation bilaterally.  No wheezes/rhonchi/rales.
-Abdominal: Non-distended, bowel sounds normoactive.  No
tenderness to palpation in all quadrants.  No guarding, no
rebound tenderness.
-Extremities: Warm and well-perfused.  No edema of the limbs.
-Skin: No rashes or lesions noted.

Neuro-
CN: 
---I: Olfaction not tested.
---II: PERRL 3 to 2mm, both directly and consensually; brisk
bilaterally.  VFF to confrontation.
---III, IV, VI: EOMI without nystagmus
---V: Facial sensation intact to light touch in all 
distributions
---VII: No facial droop, facial musculature symmetric and ___
strength in upper and lower distributions, bilaterally
---VIII: Hearing intact to finger rub bilaterally
---IX, X: Palate elevates symmetrically
---XI: ___ strength in trapezii and SCM bilaterally
---XII: Tongue protrudes in midline
 
Motor:
       Delt:C5  Bic:C6   Tri:C7   Wr ext:C6   Fing ext:C7
Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength ___ throughout.

*Deep tendon Reflexes: 2 and symmetrical throughout

Sensation: No deficits to fine touch throughout
Coordination: Normal on finger to nose test, no intention tremor
noted
Gait/Romberg: Good initiation.  Narrow-based, normal stride and
arm swing.  Able to walk in tandem without difficulty.  Romberg
absent.

Neuropsychiatric Examination:
  *Appearance: man appearing stated age, untrimmed facial hair,
wearing hospital gown, in no apparent distress
  Behavior: Sitting up in bed, appropriate eye contact, no
psychomotor agitation or retardation
  *Mood: "I'm terrified"
     Affect: anxious
  *Thought process: Linear, goal oriented, absence of loose
associations
  *Thought Content: Denies AVH, endorses SI only if he were
forced to leave or go to ___, otherwise no active SI/HI
  *Judgment and Insight: poor/poor
  Cognition:
    *Attention, *orientation, and executive function: awake,
alert, and oriented x3, attentive to interview
    *Memory: intact to recent and remote history
    *Fund of knowledge: average
    *Speech: fluctuates between normal rate, volume, and tone, 
to
loud when discussing parents, or having to live with a roommate
long-term 
    *Language: native ___ speaker, no paraphasic errors,
appropriate to conversation
 
Pertinent Results:
___ 04:00AM BLOOD WBC-10.8* RBC-5.00 Hgb-14.8 Hct-43.8 
MCV-88 MCH-29.6 MCHC-33.8 RDW-13.1 RDWSD-41.9 Plt ___
___ 04:00AM BLOOD Neuts-54.1 ___ Monos-7.3 Eos-2.1 
Baso-0.6 Im ___ AbsNeut-5.81 AbsLymp-3.81* AbsMono-0.79 
AbsEos-0.23 AbsBaso-0.06
___ 04:00AM BLOOD Plt ___
___ 04:00AM BLOOD Glucose-105* UreaN-16 Creat-0.8 Na-138 
K-4.5 Cl-100 HCO3-22 AnGap-16
___ 04:00AM BLOOD ALT-38 AST-19 AlkPhos-75 TotBili-0.4
___ 09:45AM BLOOD Phos-2.3* Cholest-196
___ 04:00AM BLOOD Calcium-9.4 Phos-5.2* Mg-2.3
___ 04:00AM BLOOD VitB12-409 Folate-10
___ 04:00AM BLOOD %HbA1c-5.3 eAG-105
___ 09:45AM BLOOD Triglyc-255* HDL-33* CHOL/HD-5.9 
LDLcalc-112
___ 04:00AM BLOOD TSH-2.2
___ 09:45AM BLOOD 25VitD-17*
 
Brief Hospital Course:
This is a ___ year old single, homeless, unemployed man, 
previously diagnosed with autism spectrum disorder, OCD, s/p 
numerous psychiatric hospitalizations with recent discharge from 
___ in ___, no prior suicide attempts, 
chronic difficulties with poor frustration tolerance with 
numerous verbal threats towards his parents, who presented to 
___ ED via EMS after threatening to commit suicide, HI towards 
is mother after she refused to pay for his stay in the ___ 
___ and suggested he go to a homeless shelter. 
.
History and presentation is concerning for underlying 
neurodevelopmental disorder that is consistent with ASDwith 
apparent difficulties developing, maintaining, and understanding 
relationships, difficulty connecting with others, difficulty 
adjusting to changes in his environment with recent worsening of 
behavioral outbursts in the setting of his mother withdrawing 
financial support. Of note, although Mr. ___ endorses some 
depressive symptoms as noted above, he is not dysthymic or 
dysphoric on examination and his depression seems related more 
to his financial stressors. He does not appear to be suffering 
from a major depressive episode. Furthermore, nothing in his 
history to suggest a history of manic symptoms or psychosis-- I 
do not believe he suffers from BPAD or a primary psychotic 
disorder. Furthermore, nothing in his history or tox screen to 
suggest history of substance use and given his relatively young 
age and good health, I do not believe an underlying medical 
condition is contributing to his current presentation.
.
#. Legal/Safety: patient was admitted to Deaconess 4 on a 
___, upon admission, he signed a conditional voluntary 
form, which was accepted. Of note, he maintained his safety 
throughout his psychiatric hospitalization on 15 minute checks 
and did not require physical or chemical restraints. 
. 
#. ASD: with behavioral issues as noted above and chronically 
poor frustration tolerance. 
- Patient was compliant in meeting with his treatment team and 
attended groups, maintaining adequate behavioral control during 
his hospitalization. 
- After discussion of the risks and benefits, we started Abilify 
5 mg po qd, which he tolerated well with no complaints of side 
effects aside from minor nausea following the first dose. For 
anxiety and irritability Ativan 0.5 mg po q6h was written for, 
which he tolerated well without sedation. He was discharged on 
Ativan 0.5 mg po tid prn. In addition, Trazodone 50 mg po qhs 
was continued during this hospitalization
- Collateral from his mother and from his outpatient therapist 
confirmed the longstanding pattern of behavioral outbursts with 
patient threatening others when he does not feel his needs are 
being met. Of note, Mr. ___ stated he had desire to go to 
prom with teenagers and make friends with them, which his 
outpatient therapist confirmed was his baseline and confirmed 
that he has never acted out on these threats. 
- A significant amount of time was spent in attempting to engage 
the patient in CBT to look at the effects his behavior may have 
on his current situation of homelessness. Mr. ___ refused to 
engage, and would frequently make provocative statements that, 
"it's time for my parents to die... I refuse to not agree to 
scream during the day... my mother better pay for a hotel... my 
mother can't tell me that I can't be friends with teenagers." He 
would also tend to state that if discharged to a homeless 
shelter he would throw himself in front of traffic. However, 
after we discussed that a suicide attempt would likely be a very 
painful and disfiguring experience, he no longer threatened 
conditional suicidal ideation at time of discharge. 
- Given lack of any major mood disorder, psychotic disorder, 
anxiety disorder as well as collateral that the patient is 
likely at or near his baseline and given his good behavioral 
control on the unit with safe behaviors, good attendance to 
ADL's, I did not feel he met inpatient level of care. In terms 
of aftercare, the patient's mother offered to have him stay in 
___ (his ___ where she would pay for an apartment. The 
patient refused this, stating he did not feel safe being near 
his mother and that he would punch her in the arm, which he 
understood would likely result in legal charges. Patient 
literally refused all dispo planning aside from an independent 
apartment, which we could not provide. Of note, records from his 
admission at ___ were obtained from an ___ 
___, which revealed a nearly identical presentation 
that nearly required security escort off the premises. 
.
RISK ASSESSMENT: Patient is at chronically elevated risk of self 
harm with risk factors that include male sex, chronically poor 
frustration tolerance and impulsivity, poor distress tolerance, 
single status, current homelessness. However, he has never had a 
suicide attempt and he has a long history of making provocative
statements when he feels his needs are not being met. Again, at 
time of discharge he was noted to have a relatively euthymic, 
although intermittently irritable affect with thought process 
that was linear, goal and future oriented with plan to go to 
another ED if his mother would not pay for a hotel. It should 
also be noted that I do not believe that Mr. ___ benefitted 
from this admission, and should he re-present to the ED again 
with a similar presentation, I would be reluctant to readmit 
him, as admission is ultimately reinforcing of these maladaptive 
behaviors. 

 
Medications on Admission:
None
 
Discharge Medications:
Ativan 0.5 mg PO BID PRN for anxiety
Trazodone 50 mg PO at bedtime
Abilify 5 mg PO at bedtime
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Autism Spectrum Disorder
Adjustment Disorder 
 
Discharge Condition:
Vitals: 98.3 PO; 125/85; 98; 17; 98% 
Appearance/Behavior: Appears stated age, dressed in hospital 
pants and a sweater, slightly disheveled but with adequate 
hygiene and grooming. Adequate eye contact, no psychomotor 
agitation or retardation noted. 
Speech: normal rate, volume, prosody 
Mood: 'anxious' 
Affect: superficially euthymic, continues to be irritable when 
discussing discharge options 
Thought Content: no delusions present, no obsessions noted 
Thought Process: preoccupied about housing, otherwise linear, 
goal and future oriented, perseverative 
Consciousness: awake, alert, responds to questions appropriately 

Insight/Judgment: limited/limited
Ambulatory status: independent

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___